US06297261B1
4-Hydroxy-3-(2-aminophenyl)-[1 , 2, 4]triazole
A solution of 4-hydroxy-3-(2-nitrophenyl)-1 , 2, 4-triazole (0.38 g, 1.8 mmol), prepared according H.G.O. Becker in J. Prakt. Chem., 1970, 312, 610, in 96% ethanol was hydrogenated over 5% palladium on charcoal at room temperature for 1 hour. The reaction was filtered through a pad of celite to give desired material on evaporation of the solvent.

reactant | 4-hydroxy-3-(2-nitrophenyl)-1 , 2, 4-triazole | 1.8 mmol, 0.38 g | ON1C(=NN=C1)C1=C(C=CC=C1)[N+](=O)[O-] | C8H6N4O3
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 4-Hydroxy-3-(2-aminophenyl)-[1 , 2, 4]triazole | ON1C(=NN=C1)C1=C(C=CC=C1)N | C8H8N4O
